US07728018B2
(1-Methyl-1,2,5,6-tetrahydro-pyridin-3-yl)-methanol
6.5 g of LiAlH4 (3.2 equiv.) was suspended in 100 mL dry THF and cooled with an ice bath. To this was added dropwise a solution of 8.27 g 1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester (free base) in 50 mL dry THF. The mixture was stirred for 3 hours at room temperature. The mixture was cooled with an ice bath and 6.5 mL H2O, 13 mL 2 M NaOH and 6.5 mL H2O were added dropwise. The residue was filtered, washed with ether and the filtrate was concentrated in vacuo to yield 6.7 g of a colorless oil. 1H NMR (400 MHz, CDCl3) δ 2.18-2.26 (m, 2H), 2.36 (s, 3H), 2.49 (t, J=6 Hz, 2H), 2.92-2.97 (m, 2H), 4.00 (br s, 2H), 5.68 (br s, 1H).

reactant | LiAlH4 | 6.5 g, 3.2 equiv. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | 8.27 g | COC(=O)C=1CN(CCC1)C | C8H13NO2
reactant | H2O | 6.5 mL | O | H2O
reactant | NaOH | 2 M, 13 mL | [OH-].[Na+]
reactant | H2O | 6.5 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (1-Methyl-1,2,5,6-tetrahydro-pyridin-3-yl)-methanol | 6.7 g | CN1CC(=CCC1)CO | C7H13NO
